US05807857
c) 5-Acetylamino-1H-pyrrolo[2,3-c]pyridine
N,N-Dimethyl-2-(2-acetylamino-5-nitropyridin-4-yl)ethenamine (6 g, 24 mmol) was hydrogenated over platinum oxide (0.5 g) in ethanol (120 mL) at 35 psi of hydrogen for 15 min. The catalyst was removed by filtration and the solvent evaporated in vacuo. The residue was chromatographed on silica eluting with a gradient of 5 to 10% MeOH in DCM to afford a purple solid. This was triturated with ether and the precipitate collected by filtration to give the title compound (1.4 g, 33%) as a beige solid. mp 220° C. (dec.). 1H NMR (360 MHz, d6 -DMSO) δ 2.07 (3H, s), 6.45 (1H, s), 7.55-7.57 (1H, m), 8.21 (1H, s), 8.46 (1H, s), 10.16 (1H, br s) and 11.42 (1H, br s).

reactant | N,N-Dimethyl-2-(2-acetylamino-5-nitropyridin-4-yl)ethenamine | 24 mmol, 6 g | CN(C=CC1=CC(=NC=C1[N+](=O)[O-])NC(C)=O)C | C11H14N4O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 120 mL | C(C)O | C2H6O
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | 5-Acetylamino-1H-pyrrolo[2,3-c]pyridine | 1.4 g, 33% | C(C)(=O)NC=1C=C2C(=CN1)NC=C2 | C9H9N3O
